US08217069B2
5-Amino-4-chloro-2-methoxy-N-methyl-N-(1-methyl-1-phenylethyl)benzenesulfonamide
To a solution of 4-chloro-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-2-methoxybenzene-sulfonyl chloride (0.2 g) in methylene chloride (6 mL) were added 2-amino-2-phenylpropane (70 mg), triethylamine (0.11 mL) and 4-dimethylaminopyridine (6 mg), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was dissolved in N,N-dimethylformamide (6 mL). To the solution were added methyl iodide (0.057 mL) and sodium hydride (55%, 22 mg) under ice-cooling, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in tetrahydrofuran (10 mL). To the solution was added hydrazine monohydrate (0.11 mL), and the mixture was heated at reflux for 2 hours. The reaction mixture was cooled to room temperature, and the insoluble material was removed by filtration. To the filtrate were added water and ethyl acetate, and the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1) to give the title compound (97 mg).

reactant | 4-chloro-5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-2-methoxybenzene-sulfonyl chloride | 0.2 g | ClC1=CC(=C(C=C1N1C(C2=CC=CC=C2C1=O)=O)S(=O)(=O)Cl)OC | C15H9Cl2NO5S
reactant | 2-amino-2-phenylpropane | 70 mg | NC(C)(C)C1=CC=CC=C1 | C9H13N
reactant | triethylamine | 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 6 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-Amino-4-chloro-2-methoxy-N-methyl-N-(1-methyl-1-phenylethyl)benzenesulfonamide | 97 mg | NC=1C(=CC(=C(C1)S(=O)(=O)N(C(C)(C1=CC=CC=C1)C)C)OC)Cl | C17H21ClN2O3S
